US06693154B2
Preparation of an Iron(II) 1,3-Bis(2-pyridylimino)isoindoline Complex
A 100-mL round-bottom flask equipped with a nitrogen inlet and an internal fritted-glass filter is charged with phthalonitrile (2.56 g, 20.0 mmol) and ethyl acetate (50 mL). 2-Aminopyridine (3.77 g, 40.0 mmol, 2.1 eq.) and iron(II) chloride (2.54 g, 20.0 mmol) are added to the flask, and the mixture is stirred under nitrogen at room temperature for 1 h. The mixture is stirred at room temperature for 120 h, yielding a white precipitate.

reactant | phthalonitrile | 20.0 mmol, 2.56 g | C(C=1C(C#N)=CC=CC1)#N | C8H4N2
reactant | 2-Aminopyridine | 40.0 mmol, 3.77 g, 2.1 eq. | NC1=NC=CC=C1 | C5H6N2
reactant | iron(II) chloride | 20.0 mmol, 2.54 g | [Fe](Cl)Cl
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Iron(II) 1,3-Bis(2-pyridylimino)isoindoline | N1=C(C=CC=C1)N=C1NC(C2=CC=CC=C12)=NC1=NC=CC=C1.[Fe+2] | InChI=1S/C18H13N5.Fe/c1-2-8-14-13(7-1)17(21-15-9-3-5-11-19-15)23-18(14)22-16-10-4-6-12-20-16;/h1-12H,(H,19,20,21,22,23);/q;+2
